US07429665B2
4-(4-(4-(benzyloxy)phenyl)-2-methyloxazol-5-yl)pyridine
To a mixture of sodium acetate (323 mg, 2.38 mmol) and ammonium acetate (304 mg, 3.95 mmol) in acetic acid (10 mL) was added 1-(4-(benzyloxy)phenyl)-2-bromo-2-(pyridin-4-yl)ethanone (302 mg, 0.79 mmol). The resulting mixture was then refluxed for 48 h. After removal of the solvent under vacuum, the residue was dissolved in ethyl acetate and the solution was washed with satd NaHCO3. The organic phase was dried and concentrated in vacuum to give an oil, which was purified via silica gel chromatography (1:3 EtOAc/n-hexane) to provide 111 mg (41%) of the title compound. 1H NMR (400 MHz, CDCl3) δ: 2.58 (s, 3H), 5.15 (s, 2H), 7.01 (d, 2H), 7.39 (m, 7H), 7.56 (d, 2H), 8.57 (d, 2H). MS m/z: 343 [M+1]+.

reactant | sodium acetate | 2.38 mmol, 323 mg | C(C)(=O)[O-].[Na+]
reactant | ammonium acetate | 3.95 mmol, 304 mg | C(C)(=O)[O-].[NH4+]
reactant | 1-(4-(benzyloxy)phenyl)-2-bromo-2-(pyridin-4-yl)ethanone | 0.79 mmol, 302 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C1=CC=NC=C1)Br)=O | C20H16BrNO2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-(4-(4-(benzyloxy)phenyl)-2-methyloxazol-5-yl)pyridine | 111 mg, 41% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N=C(OC1C1=CC=NC=C1)C | C22H18N2O2
